US05478858
To a solution of di-2-pyridyl thionocarbonate (2.29 g) and 4-dimethylaminopyridine (0.03 g) in CH2Cl2 (150 mL) is added dropwise over 30 minutes a solution of 5-amino-4,7-dimethylbenzimidazole (0.816 g) in methanol (50 mL). The mixture is stirred for 3 hours at room temperature, then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with a gradient of 50% to 80% ethyl acetate/hexane to afford 4,7-dimethyl-5-benzimidazolylisothiocyanate as a white solid.

reactant | di-2-pyridyl thionocarbonate | 2.29 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 5-amino-4,7-dimethylbenzimidazole | 0.816 g | NC1=C(C2=C(N=CN2)C(=C1)C)C | C9H11N3
catalyst | 4-dimethylaminopyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
product | 4,7-dimethyl-5-benzimidazolylisothiocyanate | CC1=C(C=C(C=2N=CNC21)C)N=C=S | C10H9N3S
